US04925861
Preparation of 2-(2-(3-cyanophenyl)ethenyl)-4-isopropylthiazole
3-Cyanobenzaldehyde (3.93 g, 30.0 mmol) was mixed with 4-isopropyl-2-methylthiazole (4.19 g, 30.0 mmol), and acetic anhydride (1.53 g, 15.0 mmol) was added. The mixture was heated under stirring at 170° C for 24 hours. After the reaction, acetic acid was distilled out under reduced pressure and the residue was purified by column chromatography (SiO2, n-hexane/ethyl acetate=3/l) to afford the indicated compound (4.10 g) with a yield of 54%.

reactant | 3-Cyanobenzaldehyde | 30.0 mmol, 3.93 g | C(#N)C=1C=C(C=O)C=CC1 | C8H5NO
reactant | 4-isopropyl-2-methylthiazole | 30.0 mmol, 4.19 g | C(C)(C)C=1N=C(SC1)C | C7H11NS
reactant | acetic anhydride | 15.0 mmol, 1.53 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-(2-(3-cyanophenyl)ethenyl)-4-isopropylthiazole | 4.10 g, yield of 54% | C(#N)C=1C=C(C=CC1)C=CC=1SC=C(N1)C(C)C | C15H14N2S
